US05342846
1-Cyclopropyl-6 -fluoro-8-methoxy-7-[3-(5-methyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid
3-(5-methyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride (64 mg, 0.34 mmol) and DBU (77 mg, 0.51 mmol) was added to a suspension of 1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (50 mg, 0.17 mmol) in acetonitrile (5 ml). The reaction mixture was refluxed for 18 hrs and then concentrated to dryness. The residue was triturated with water and thus separated solid was filtered, washed with water, acetonitrile and dried to give 5 mg of title product. m.p. 226°-228° C.; 1H NMR (TFA) δ: 9.35 (s, 1H), 8.32 (s, 1H), 8.08 (d, 1H), 5.72 (m, 1H), 4.30-4.80 (m, 4H), 4.10 (m, 1H), 3.80 (s, 3H), 2.90 (m, 2H), 2.72 (s, 3H), 1.12-1.64 (m, 4H).

reactant | 3-(5-methyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 0.34 mmol, 64 mg | Cl.CC1=CN=NN1C1CNCC1
reactant | DBU | 0.51 mmol, 77 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.17 mmol, 50 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6 -fluoro-8-methoxy-7-[3-(5-methyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid | 5 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(CC1)N1N=NC=C1C)F)=O)C(=O)O | C21H22FN5O4
